US08957069B2
5-amino-4-ethenyl-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one
2-ethenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolan (3.79 g, 24.6 mmol), tetrakistriphenyl phosphine palladium (605 mg, 0.523 mmol), sodium carbonate (1.36 g, 12.8 mmol), water (8 mL) and ethanol (5 mL) were added to a solution of DME (14 mL) containing 5-amino-4-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (2.00 g, 7.04 mmol) synthesized in Reference Example 21, and the mixture was stirred under argon atmosphere at 100° C. for 45 hours. After cooled to room temperature, water was added to the mixture, and extraction was performed using ethyl acetate. It was dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate: 98:2 to 85:15) to give 1.47 g of the title compound (yield: 91%).

reactant | 2-ethenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolan | 24.6 mmol, 3.79 g | C(=C)B1OC(C(O1)(C)C)(C)C | C8H15BO2
reactant | sodium carbonate | 12.8 mmol, 1.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-amino-4-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 7.04 mmol, 2.00 g | NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1Br)C)C | C12H14BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DME | 14 mL | COCCOC | C4H10O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
product | 5-amino-4-ethenyl-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 1.47 g, yield: 91% | NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C=C)C)C | C14H17NO2
